US07989665B2
Preparation of N,N′-bis{[2-(diphenylphosphino)phenyl]methvlene}-2,2-dimethyl-1,3-propanediamine (L-5)
Under argon, a solution of 2-(diphenylphosphino)benzaldehyde (522.7 mg, 1.8 mmol) and 2,2-dimethyl-1,3-propanediamine (93.3 mg, 0.9 mmol) in toluene (15 mL) was stirred at room temperature for 15 h. Then the reaction mixture was heated at 80° C. (oil bath) for 2 h 30 min. Next, the solvent was removed in vacuo, and an orange solid was recovered (476.8 mg, 0.74 mmol, 82%).

reactant | 2-(diphenylphosphino)benzaldehyde | 1.8 mmol, 522.7 mg | C1(=CC=CC=C1)P(C1=C(C=O)C=CC=C1)C1=CC=CC=C1 | C19H15OP
reactant | 2,2-dimethyl-1,3-propanediamine | 0.9 mmol, 93.3 mg | CC(CN)(CN)C | C5H14N2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | N,N′-bis{[2-(diphenylphosphino)phenyl]methvlene}-2,2-dimethyl-1,3-propanediamine | C1(=CC=CC=C1)P(C1=C(C=CC=C1)C=NCC(CN=CC1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C43H40N2P2
